US04001237
4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline (I)
Piperazine hydrobromide (168.0 g., 1.006 mole) was added to a suspension of 4-amino-2-chloro-6,7-dimethoxyquinazoline (241.0 g., 1.006 mole) in 2-methoxyethanol (3.6 l.) and the mixture was stirred at reflux for 1.25 hours. The precipitate was separated by filtration, washed with hot 2-methoxyethanol and dried. The material then was added to a stirred solution of sodium hydroxide (81.0 g., 2.01 mole) in water (3 l.) and the mixture was heated to 75° C. The mixture then was cooled to 40° C., filtered, and the insoluble precipitate washed with water and dried. The material was triturated under refluxing absolute ethanol (6.0 l.) and the mixture was filtered. The filtrate was evaporated to dryness to yield the title compound, 180.0 g. (62%), m.p. 224°-228° C.

reactant | Piperazine hydrobromide | 1.006 mole, 168.0 g | Br.N1CCNCC1
reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | 1.006 mole, 241.0 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | sodium hydroxide | 2.01 mole, 81.0 g | [OH-].[Na+]
solvent | 2-methoxyethanol | 3.6 l | COCCO | C3H8O2
solvent | water | 3 l | O | H2O
product | 4-amino-6,7-dimethoxy-2-(1-piperazinyl)quinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C14H19N5O2
